US09278978B2
N-(4-{1,3-dimethyl-1H-pyrazolo[4,3-d]pyrimidin-7-yl}-6-[2-(1-methyl-1H-indazol-5-yl)ethynyl]pyridin-2-yl)-2-(methylamino)propanamide
A mixture of tert-butyl-N-{1-[(4-{1,3-dimethyl-1H-pyrazolo[4,3-d]pyrimidin-7-yl}-6-[2-(1-methyl-1H-indazol-5-yl)ethynyl]pyridin-2-yl)carbamoyl]ethyl}-N-methylcarbamate H1 (246 mg, 0.42 mmol), DCM (5 ml) and TFA (1 ml) is stirred at RT for 1 h. 50 ml of a saturated aqueous sodium hydrogencarbonate solution is added and the mixture extracted with DCM. The combined organic layers are dried over MgSO4 and concentrated in vacuo. The product is purified by RP HPLC. Yield: 99 mg (49%). HPLC-MS: M+H=480; tR=1.16 min (METHOD—1).

reactant | tert-butyl-N-{1-[(4-{1,3-dimethyl-1H-pyrazolo[4,3-d]pyrimidin-7-yl}-6-[2-(1-methyl-1H-indazol-5-yl)ethynyl]pyridin-2-yl)carbamoyl]ethyl}-N-methylcarbamate | C(C)(C)(C)OC(N(C)C(C)C(NC1=NC(=CC(=C1)C=1C2=C(N=CN1)C(=NN2C)C)C#CC=2C=C1C=NN(C1=CC2)C)=O)=O | C31H33N9O3
reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | sodium hydrogencarbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | N-(4-{1,3-dimethyl-1H-pyrazolo[4,3-d]pyrimidin-7-yl}-6-[2-(1-methyl-1H-indazol-5-yl)ethynyl]pyridin-2-yl)-2-(methylamino)propanamide | CN1N=C(C=2N=CN=C(C21)C2=CC(=NC(=C2)C#CC=2C=C1C=NN(C1=CC2)C)NC(C(C)NC)=O)C | C26H25N9O
